US07943619B2
3-Chloro-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine
To a solution of (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (5.0 g, 26.4 mmol) in THF (50 mL) was added sodium hydride (55% dispersion in mineral oil, 1.27 g, 29.1 mmol). The mixture was stirred at room temperature for 30 min. After addition of 3,6-dichloropyridazine (4.33 g, 29.1 mmol) the mixture was stirred at room temperature for another 5 h. Then the mixture was evaporated, extracted (ethyl acetate/water) and the organic phase was dried with sodium sulfate and concentrated. Chromatography (SiO2, heptane:ethyl acetate=100:0 to 70:30) afforded the title compound (6.62 g, 83%) as a white solid. MS: m/e=302.0 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 26.4 mmol, 5.0 g | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | sodium hydride | 29.1 mmol, 1.27 g | [H-].[Na+]
reactant | 3,6-dichloropyridazine | 29.1 mmol, 4.33 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-Chloro-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine | 6.62 g, 83% | ClC=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C15H12ClN3O2
